US04999454
In 3.9 ml. (0.04M) of chloral 0.1 g. of ferric chloride-hexahydrate is dissolved, and then 3.95 ml. (0.04M) of cyclohexene are added dropwise at 10°-25° C. After stirring for 2 hours 20 ml. of water and 4 ml. of concentrated hydrochloric acid are added. The layers are separated and the aqueous layer is extracted with carbon tetrachloride. The organic layers are combined, dried, filtered and the solvent is distilled off at reduced pressure. 7.6 g. (82.8%) of trichloromethyl-(2-cyclohexenyl-1-yl)-carbinol are obtained.

reactant | chloral | 0.04M, 0.1 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | cyclohexene | 0.04M | C1=CCCCC1 | C6H10
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | trichloromethyl-(2-cyclohexenyl-1-yl)-carbinol | 82.8% | ClC(Cl)(Cl)C(O)=C1C=CCCC1 | C8H9Cl3O
